US04683303
(d) Preparation of methyl ((3S,4S)-4-acetoxy-3-t-butyloxycarbonylaminoazetidin-2-on-1-yl)-2-oxoacetate
Into a solution of 910 mg (2.5 mmol) of methyl 2-((3S,4S)-4-acetoxy-3-t-butyloxycarbonylaminoazetidin-2-on-1-yl)-3-methylbut-2-enoate in 40 ml of methanol, for 120 minutes at -10° C. in a mixture of ozone and oxygen is introduced at a rate of 0.1 mmol of ozone per minute. The obtained crystalline residue is dissolved by addition of 160 ml of methylene chloride and the solution is washed subsequently with 60 ml of a 10% aqueous sodium bisulfite solution and 60 ml of saturated sodium chloride solution. The organic layer is dried over sodium sulfate and dried in vacuo, affording 640 mg of a noncrystalline solid. Recrystallisation from cold methanol furnishes 613 mg (74%) of pure title compound of a melting point of 144° to 146° C. IR spectrum in methylene chloride: 3400, 3000, 1840, 1765, 1720, 1500, 1360, 1220, 1160 and 1040 cm-1.

reactant | methyl 2-((3S,4S)-4-acetoxy-3-t-butyloxycarbonylaminoazetidin-2-on-1-yl)-3-methylbut-2-enoate | 2.5 mmol, 910 mg | C(C)(=O)O[C@H]1[C@@H](C(N1C(C(=O)OC)=C(C)C)=O)NC(=O)OC(C)(C)C | C16H24N2O7
reactant | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
reactant | methanol | 40 ml | CO | CH4O
solvent | ozone | O=[O+][O-] | O3
solvent | oxygen | O=O | O2
solvent | ozone | 0.1 mmol | O=[O+][O-] | O3
product | methyl ((3S,4S)-4-acetoxy-3-t-butyloxycarbonylaminoazetidin-2-on-1-yl)-2-oxoacetate | 640 mg | C(C)(=O)O[C@H]1[C@@H](C(N1C(C(=O)OC)=O)=O)NC(=O)OC(C)(C)C | C13H18N2O8
